US06660744B1
A mixture of 5-bromo-2-chloropyrimidine (5.00 g, 0.0259 mol), phenol (3.16 g, 0.0336 mol), dibenzo-18-crown-6 (0.47 g, 0.0013 mol) and ground potassium hydroxide (3.51 g, 0.0626 mol) in toluene (75 ml) was heated at reflux for 5 hours with azeotropic removal of water. The mixture was allowed to cool to ambient temperature and the solvent was removed under reduced pressure. The residue was partitioned between water and chloroform. The layers were separated and the aqueous phase was extracted with chloroform three times. The combined organic layers were dried over magnesium sulfate, filtered and evaporated. The residue was purified by flash column chromatography on silica using n-heptane/ethyl acetate (98:2) as an eluent to give 5-bromo-2-phenoxy-pyrimidine as a white solid (3.55 g, 0.0141 mol): 1H NMR (DMSO-d6, 400 MHz) 8.80 (s, 2H), 7.45 (t, 2H), 7.27 (t, 1H), 7.22 (d 2H); TLC (n-heptane/ethyl acetate=95:5) Rf 0.20.

reactant | 5-bromo-2-chloropyrimidine | 0.0259 mol, 5.00 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | phenol | 0.0336 mol, 3.16 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium hydroxide | 0.0626 mol, 3.51 g | [OH-].[K+]
reactant | water | O | H2O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
catalyst | dibenzo-18-crown-6 | 0.0013 mol, 0.47 g | C1COC2=CC=CC=C2OCCOCCOC3=CC=CC=C3OCCO1 | C20H24O6
product | 5-bromo-2-phenoxy-pyrimidine | 0.0141 mol, 3.55 g | BrC=1C=NC(=NC1)OC1=CC=CC=C1 | C10H7BrN2O
